US07488740B2
10. 7-[3-(Trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-[1,5]naphthyridin-4-amine
Stir a mixture of 2-chloro-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl) pyridin-2-yl]-[1,5]naphthyridin-4-amine (94 mg), ammonium formate (126 mg), 10% palladium on carbon (25 mg) in methanol (10 mL) at 50° C. for 2 hours. Cool, filter through Celite and evaporate to dryness. Purify by preparative thin layer chromatography, eluting with dichloromethane/methanol/ammonium hydroxide mixture to give the title compound. MS 436 (M+1). 1H NMR δ (CDCl3) 8.95-8.93 (2H, m), 8.63-8.57 (2H, m), 8.34-8.32 (1H, m), 8.26 (1H, s), 8.18 (1H, dd), 7.91 (1H, dd), 7.57-7.52 (2H, m).

reactant | 2-chloro-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl) pyridin-2-yl]-[1,5]naphthyridin-4-amine | 94 mg | ClC1=NC2=CC(=CN=C2C(=C1)NC1=NC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F | C20H10ClF6N5
reactant | ammonium formate | 126 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 7-[3-(Trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-[1,5]naphthyridin-4-amine | FC(C=1C(=NC=CC1)C1=CN=C2C(=CC=NC2=C1)NC1=NC=C(C=C1)C(F)(F)F)(F)F | C20H11F6N5
